US08293768B2
Preparation of 2-bromo-N-(3,4-difluorobenzyl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Preparation 8, making variations as required to replace benzyl amine with (3,4-difluorophenyl)methanamine to react with 2-bromo-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a colorless solid in 61% yield: 1H NMR (300 MHz, CDCl3) δ 7.16-7.01 (m, 3H), 6.08-5.94 (m, 1H), 4.52 (d, J=5.9 Hz, 2H), 2.64 (s, 3H); MS (ES+) m/z 347.2 (M+1), 349.2 (M+3).

reactant | benzyl amine | C(C1=CC=CC=C1)N | C7H9N
reactant | (3,4-difluorophenyl)methanamine | FC=1C=C(C=CC1F)CN | C7H7F2N
reactant | 2-bromo-4-methylthiazole-5-carboxylic acid | BrC=1SC(=C(N1)C)C(=O)O | C5H4BrNO2S
product | 2-bromo-N-(3,4-difluorobenzyl)-4-methylthiazole-5-carboxamide | 61% yield | BrC=1SC(=C(N1)C)C(=O)NCC1=CC(=C(C=C1)F)F | C12H9BrF2N2OS
